US06211199B1
Combine (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (3.5 mmol) and tetrahydrofuran (45 mL) and dimethylformamide (5 mL). Cool in an ice bath and add sodium hydride (0.21 g, 60% in oil, 5.22 mmol). After 1 hour, add 5-chloropentan-2-one, ethylene ketal (0.79 mL, 5.22 mmol) and tetra-n-butylammonium bromide (112 mg, 0.35 mmol) and warm to ambient temperature. Heat to reflux. After 18 hours, cool, add sodium hydride (0.1 g) and 5-chloropentan-2-one, ethylene ketal (0.50 mL) and again heat to reflux. After 24 hours, cool in a dry-ice/acetone bath and add a saturated aqueous solution of ammonium chloride. Warm to ambient temperature and dilute the reaction mixture with a saturated aqueous solution of sodium bicarbonate. Concentrate in vacuo to remove most to the tetrahydrofuran and extract three times with ethyl acetate. Extract the combined organic layers with water and then brine, dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5% methanol/dichloromethane/0.1% saturated aqueous ammonia solution to give (1-(4-oxopentyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine, ethylene ketal.

reactant | (1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 3.5 mmol | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | sodium hydride | 5.22 mmol, 0.21 g | [H-].[Na+]
reactant | 5-chloropentan-2-one | ClCCCC(C)=O | C5H9ClO
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | tetra-n-butylammonium bromide | 0.35 mmol, 112 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol dichloromethane | CO.ClCCl
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | (1-(4-oxopentyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | O=C(CCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C)C | C22H32N4O3
